US07196099B2
A solution of 2-amino-cyclohexane-1,3-diol (0.55 g) in dimethylformamide (30 ml) was treated with diisopropylethylamine (1.6 ml, 9.2 mmol). After stirring at room temperature for 5 minutes the mixture was treated with (R)-2-[(morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionic acid (1.73 g, 4.86 mmol) followed by HATU (1.68 g, 4.42 mmol). This mixture was stirred at room temperature overnight and then evaporated. The residue was subjected to flash chromatography on silica eluting with ethyl acetate and then a mixture of ethyl acetate and methanol to give morpholine-4-carboxylic acid [(R)-1-(2,6-dihydroxy-cyclohexylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide as a white solid (210 mg). MS: 470 (MH+).

reactant | 2-amino-cyclohexane-1,3-diol | 0.55 g | NC1C(CCCC1O)O | C6H13NO2
reactant | diisopropylethylamine | 9.2 mmol, 1.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (R)-2-[(morpholine-4-carbonyl)-amino]-3-phenylmethanesulfonyl-propionic acid | 4.86 mmol, 1.73 g | N1(CCOCC1)C(=O)N[C@H](C(=O)O)CS(=O)(=O)CC1=CC=CC=C1 | C15H20N2O6S
reactant | HATU | 4.42 mmol, 1.68 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | morpholine-4-carboxylic acid [(R)-1-(2,6-dihydroxy-cyclohexylcarbamoyl)-2-phenylmethanesulfonyl-ethyl]-amide | 210 mg | OC1C(C(CCC1)O)NC(=O)[C@H](CS(=O)(=O)CC1=CC=CC=C1)NC(=O)N1CCOCC1 | C21H31N3O7S
